US07741347B2
The relative stereochemical assignments of the DIBAL-reduction products were made based on NOE studies conducted on lactone derivatives prepared from each isomer by employing the following protocol: LiHMDS (50 μL of 1.0 M/THF, 0.05 mmol) was added to a cooled (ice-water) THF (2.0 mL) solution of (2S,3S)-benzyl 4-hydroxy-3-methyl-2-(9-phenyl-9H-fluoren-9-ylamino)butanoate (62.7 mg, 0.135 mmol), and the reaction mixture was stirred at similar temperature for ˜2 hr. The volatile component was removed in vacuo and the residue was partitioned between CH2Cl2 (30 mL), water (20 mL) and saturated aqueous NH4Cl solution (1 mL). The organic layer was dried (MgSO4), filtered, and concentrated in vacuo, and the resulting crude material was submitted to a Biotage purification (40 g silica gel; 10-15% EtOAc/hexanes) to afford (3S,4S)-4-methyl-3-(9-phenyl-9H-fluoren-9-ylamino)dihydrofuran-2(3H)-one as a colorless film of solid (28.1 mg). (2S,3R)-benzyl 4-hydroxy-3-methyl-2-(9-phenyl-9H-fluoren-9-ylamino)butanoate was elaborated similarly to (3S,4R)-4-methyl-3-(9-phenyl-9H-fluoren-9-ylamino)dihydrofuran-2(3H)-one. (3S,4S)-lactone isomer: 1H NMR (DMSO-d6, δ=2.5 ppm, 400 MHz), 7.83 (d, J=7.5, 2H), 7.46-7.17 (m, 11H), 4.14 (app t, J=8.3, 1H), 3.60 (d, J=5.8, NH), 3.45 (app t, J=9.2, 1H), ˜2.47 (m, 1H, partially overlapped with solvent signal), 2.16 (m, 1H), 0.27 (d, J=6.6, 3H). LC (Cond. 1): RT=1.98 min; LC/MS: Anal. Calcd. for [M+Na]+ C24H21NNaO2: 378.15. found 378.42. (3S,4R)-lactone isomer: 1H NMR (DMSO-d6, δ=2.5 ppm, 400 MHz), 7.89 (d, J=7.6, 1H), 7.85 (d, J=7.3, 1H), 7.46-7.20 (m, 11H), 3.95 (dd, J=9.1, 4.8, 1H), 3.76 (d, J=8.8, 1H), 2.96 (d, J=3.0, NH), 2.92 (dd, J=6.8, 3, NCH), 1.55 (m, 1H), 0.97 (d, J=7.0, 3H). LC (Cond. 1): RT=2.03 min; LC/MS: Anal. Calcd. for [M+Na]+ C24H21NNaO2: 378.15. found 378.49.

reactant | DIBAL | CC(C)C[AlH]CC(C)C
reactant | LiHMDS | 0.05 mmol, 1.0 M, 50 μL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | (2S,3S)-benzyl 4-hydroxy-3-methyl-2-(9-phenyl-9H-fluoren-9-ylamino)butanoate | 0.135 mmol, 62.7 mg | OC[C@H]([C@@H](C(=O)OCC1=CC=CC=C1)NC1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1)C | C31H29NO3
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | (3S,4S)-4-methyl-3-(9-phenyl-9H-fluoren-9-ylamino)dihydrofuran-2(3H)-one | C[C@H]1[C@@H](C(OC1)=O)NC1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C24H21NO2
